US07501447B2
Step C. Methyl{4-[(cyclohexylmethyl)amino]-3-nitrophenyl}carbamate
Methyl(4-fluoro-3-nitrophenyl)carbamate (1.00 g, 4.67 mmol) and cyclohexylmethyl amine (0.730 mL, 5.60 mmol) were stirred in EtOH (20 mL) containing TEA (1.0 mL, 7.00 mmol) at 75° C. for 24 h. The solvent was concentrated. The residue was dissolved in EtOAc and washed with 5% KHSO4 aqueous solution, saturated NaHCO3 aqueous solution, brine and dried over anhydrous MgSO4. The crude product was purified by flash chromatography using 4:1/hexanes:EtOAc on silica gel. Yield: 1.05 g (73%); 1H NMR (400 MHz, CHLOROFORM-D) δ 1.04 (m, 2H), 1.25 (m, 3H), 1.69 (m, 2H), 1.77 (m, 2H), 1.83 (m, 1H), 1.86 (m, 1H), 3.14 (m, 2H), 3.78 (s, 3H), 6.46 (m, 1H), 6.84 (d, J=9.37, 1H), 7.63 (m, 1H), 8.05 (d, J=2.54 Hz, 1H), 8.09 (m, 1H).

reactant | Methyl(4-fluoro-3-nitrophenyl)carbamate | 4.67 mmol, 1.00 g | COC(NC1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C8H7FN2O4
reactant | cyclohexylmethyl amine | 5.60 mmol, 0.730 mL | C1(CCCCC1)CN | C7H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | Methyl{4-[(cyclohexylmethyl)amino]-3-nitrophenyl}carbamate | COC(NC1=CC(=C(C=C1)NCC1CCCCC1)[N+](=O)[O-])=O | C15H21N3O4
